US07612103B2
0.894 g of N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridin-3-ol dissolved in 10 ml of CH2Cl2 are treated with 0.844 g of 4-dimethylaminopyridine and 0.31 g of methanesulfonic acid chlorid (mesylchloride) and stirred for ca. 24 hours, the mixture obtained is treated with 0.1 N HCl and CH2Cl2, the organic phase obtained is washed with H2O and aqueous NaHCO3-solution, the solvent is evaporated and the evaporation residue is dried. 3-Mesyloxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine is obtained. 1H-NMR (CDCl3): 6.1-5.85(m,2H,HIV,HV), 4.5(m,1H,NHCHCO), 3.7(s,3H,CH3SO2), 1.2-0.9(m,6H,(CH3)2.

reactant | N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridin-3-ol | 0.894 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CC(C=CC1)O | C15H26N2O4
reactant | methanesulfonic acid chlorid | 0.31 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 0.1 N | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.844 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Mesyloxy-N—(N-BOC-(R)-valyl)-1,2,3,6-tetrahydropyridine | S(=O)(=O)(C)OC1CN(CC=C1)C([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C16H28N2O6S
